US04673676
A mixture of ethyl 10-pivaloylamino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (400 mg) and 1N sodium hydroxide (3.1 ml) in aqueous methanol (19 ml) was stirred at ambient temperature for 2 days. Aqueous methanol was added to the reaction mixture and then heated on a water bath until almost all the precipitate was dissolved. The solution was filtered, and the filtrate was acidified with 1N hydrochloric acid. The resultant precipitate was collected, washed successively with water and methanol, and dried. Recrystallization from a mixture of N,N-dimethylformamide and water gave pure 10-pivaloylamino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid (0.31 g).

reactant | ethyl 10-pivaloylamino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 400 mg | C(C(C)(C)C)(=O)NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C | C21H23N3O4
reactant | sodium hydroxide | 1N, 3.1 ml | [OH-].[Na+]
solvent | methanol | 19 ml | CO | CH4O
product | 10-pivaloylamino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic acid | 0.31 g | C(C(C)(C)C)(=O)NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)O)C | C19H19N3O4
